US09102591B2
2-Cyano-N-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-benzamide
From 2-cyanobenzoic acid and C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine. LCMS (MH+): m/z=424.2, tR (minutes, Method D)=0.66

reactant | 2-cyanobenzoic acid | C(#N)C1=C(C(=O)O)C=CC=C1 | C8H5NO2
reactant | C-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexyl]-methylamine | FC1(CCC(CC1)(C=1C=NC(=CC1)C(F)(F)F)CN)F | C13H15F5N2
product | 2-Cyano-N-[4,4-difluoro-1-(6-trifluoromethyl-pyridin-3-yl)-cyclohexylmethyl]-benzamide | C(#N)C1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=CC2)C(F)(F)F)C=CC=C1 | C21H18F5N3O
